US06531474B1
(2-Cyclohexyloxy-5-oxo-tetrahydro-furan-3-yl)-carbamic Acid Allyl Ester
Prepared from 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester as described for 40 using cyclohexanol to afford the title compound as a mixture of diastereomers (pale yellow oil) (4.62 g, 85% yield). Flash column chromatography using hexanes/EtOAc (90/10 to 80/20) gave 394 mg (7% yield) of the syn diastereomer of the title compound. 1H NMR (500 MHz, CDCl3) δ 1.11-2.09 (m, 10H), 2.35-2.61 (dd, 1H), 2.72-2.98 (dd, 1H), 3.60-3.83 (m, 1H), 4.32-4.72 (m, 3H), 5.06-5.43 (m, 2H), 5.60 (d, 1H), 5.82-6.03 (m, 1H).

reactant | 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC(CO)NC(=O)OCC=C)=O | C12H21NO5
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | (2-Cyclohexyloxy-5-oxo-tetrahydro-furan-3-yl)-carbamic Acid Allyl Ester | 85% yield | C(C=C)OC(NC1C(OC(C1)=O)OC1CCCCC1)=O | C14H21NO5
